US06071953
10 g (0.072 M) of 2-fluoro-4-hydroxybenzonitrile, 0.072 M of 3-chloro-3,3-dimethylpropyn and 15 g (equivalent to 16.3 ml or 0.036 M) of benzyl-trimethylammonium hydroxide (40% strength in methanol) are suspended in 80 ml of methylene chloride, a solution of 4.32 g (0.108 M) of NaOH in 80 ml of water is added, and the mixture is stirred at room temperature for 3 days. The phases are separated, and the aqueous phase is extracted several times with methylene chloride. The organic solution is washed with 10% strength NaOH and then with water and the organic solvent is distilled off under reduced pressure. 4-(1,1-Dimethyl-2-propynyloxy)-2-fluorobenzonitrile is obtained as a red-colored oily product.

reactant | 2-fluoro-4-hydroxybenzonitrile | 0.072 M, 10 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | 3-chloro-3,3-dimethylpropyn | 0.072 M | ClC(C#C)(C)C | C5H7Cl
reactant | benzyl-trimethylammonium hydroxide | 0.036 M, 16.3 ml, 15 g | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | NaOH | 0.108 M, 4.32 g | [OH-].[Na+]
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | water | 80 ml | O | H2O
product | 4-(1,1-Dimethyl-2-propynyloxy)-2-fluorobenzonitrile | CC(C#C)(OC1=CC(=C(C#N)C=C1)F)C | C12H10FNO
